### PR TITLE
[Merged by Bors] - feat: define Riemannian manifolds

### PR DESCRIPTION
**Pull request by sgouezel**
We introduce typeclasses to deal with Riemannian manifolds:

* In a fiber bundle whose fibers are already endowed with an inner product space structure, `[IsContinuousRiemannianBundle F E]` registers the fact the inner product depends continuously on the base point. This is a Prop-valued class, on top of existing data `[∀ x, NormedAddCommGroup (E x)]` `[∀ x, InnerProductSpace ℝ (E x)]`.
* We also register `[IsContMDiffRiemannianBundle n IB F E]` similarly.
* There is an issue when the fibers already have a topological structure (for instance the tangent spaces), because adding an assumption `[∀ x, NormedAddCommGroup (TangentSpace I x)]` would create a diamond. Instead, we introduce another typeclass `[RiemannianBundle E]` containing the data of an inner product space on the fibers, compatible with the preexisting topology. From this class, we register instances of inner product space structures on the fibers, whose topology is defeq to the original one.
* We make sure that registering concrete instances of `[RiemannianBundle E]` registers automatically `[IsContinuousRiemannianBundle F E]` and/or `[IsContMDiffRiemannianBundle n IB F E]` in terms of the regularity of the metric.
* Under the assumptions `[RiemannianBundle (fun (b : M) -> TangentSpace I b)]` and `[EMetricSpace M]`, we register a Prop-valued typeclass `[IsRiemannianManifold I M]` registering the fact that the edist coincides with the infimum of the lengths of paths, measured using the normed space structure in the tangent spaces.

With this design, one can develop the general theory of Riemannian bundles and Riemannian manifolds, and also define concrete instances. When working with a generic Riemannian manifold, the typeclasses will include (in addition to the usual one for manifolds, replacing the topological space one with an emetric space one) the assumptions
`[RiemannianBundle (fun (b : M) -> TangentSpace I b)]` `[IsContinuousRiemannianBundle E (fun (b : M) -> TangentSpace I b)]` `[IsContMDiffRiemannianBundle n I E (fun (b : M) -> TangentSpace I b)]`.

---

- [x] depends on: #25383 
- [x] depends on: #25768
- [x] depends on: #25771
- [x] depends on: #25824 
- [x] depends on: #25865
- [x] depends on: #26066
- [x] depends on: #26068
- [x] depends on: #26069
- [x] depends on: #26112
- [x] depends on: #26113
- [x] depends on: #26121
- [x] depends on: #26198 
- [x] depends on: #26197
- [x] depends on: #26356
- [x] depends on: #26362
- [x] depends on: #26361
- [x] depends on: #26355
- [x] depends on: #26411
- [x] depends on: #26500
- [x] depends on: #26501
- [x] depends on: #26502
- [x] depends on: #26503
- [x] depends on: #26504
- [x] depends on: #26505
- [x] depends on: #26506
- [x] depends on: #26778 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/Riemannian/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,580 @@
...
+  a little bit longer, by openness of `v`. Iterating this argument, it follows that the path will
+  remain inside `u` for the whole time interval `[0, 1]`. In particular, its right endpoint is
+  inside `u`, as desired.
+
+  To formalize this, we introduce the set `a` of times `t ∈ [0, 1]` such that `γ t' ∈ u` for all
+  `t' ∈ [0, t]`. As `u` is closed, the set `a` is closed. In particular, it contains its
+  maximum `t₁`. If this maximum is `1`, we are done. If not, `γ t₁` is in `u`, but in fact it is
+  even in `v` by the above argument based on path length control. It follows that `γ t` is still
+  in `v` (and therefore in `u`) slightly to the right of `t₁`, contradicting its maximality.
+  -/
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/Riemannian/Basic.lean:406]: This is a beautiful explanation, but I’m worried this buries a useful elementary inductive principle into a very advanced file. I propose to state in much more elementary file:
```lean
lemma IsClosed.Icc_induction {P : ℝ → Prop} (a b : ℝ) (ha : P a) (hP : IsClosed {x | P x})
    (h : ∀ t ∈ Ico a b, (∀ s ∈ Ico a t, P s) → ∀ᶠ t' in 𝓝[>] t, P t') {t : ℝ} 
    (ht : t ∈ Icc a b := by constructor <;> norm_num) : P t := by
  revert t ht
  rcases le_or_gt a b with hab|hab
  · set A := {t ∈ Icc a b | ∀ t' ∈ Icc a t, P t'}
    have a_mem : a ∈ A := ⟨left_mem_Icc.mpr hab, by simp [ha]⟩
    have bdd_A : BddAbove A := ⟨b, fun t ht ↦ ht.1.2⟩
    set t₁ := sSup A
    obtain ⟨⟨t₁a, t₁b⟩, ht₁⟩ : t₁ ∈ A := by
      rcases exists_seq_tendsto_sSup ⟨a, a_mem⟩ bdd_A with ⟨z, z_mono, z_lim, hz⟩
      refine ⟨?_, fun t ht ↦ ?_⟩
      · exact isClosed_Icc.mem_of_tendsto z_lim (.of_forall (fun n ↦ (hz n).1))
      · rcases ht.2.eq_or_lt with rfl | h
        · exact hP.mem_of_tendsto z_lim (.of_forall (fun n ↦ (hz n).2 _ ⟨(hz n).1.1, le_rfl⟩))
        · obtain ⟨n, hn⟩ : ∃ n, t < z n := ((tendsto_order.1 z_lim).1 _ h).exists
          exact (hz n).2 t ⟨ht.1, hn.le⟩
    suffices t₁ = b by simpa [this] using ht₁ 
    apply eq_of_le_of_not_lt t₁b fun t₁b' ↦ ?_
    obtain ⟨m, t₁m, H⟩ : ∃ m > t₁,  Ioo t₁ m ⊆ {x | P  x} := 
      (mem_nhdsGT_iff_exists_Ioo_subset' t₁b').mp <| 
        h t₁ ⟨t₁a, t₁b'⟩ (fun s hs ↦ ht₁ s (mem_Icc_of_Ico hs))
    obtain ⟨t, hat, ht⟩ : ∃ t, t₁ < t ∧ t < min m b := exists_between (lt_min t₁m t₁b')
    have : t ∈ A := by
      refine ⟨⟨by linarith, ht.le.trans (min_le_right _ _)⟩, fun t' ht' ↦ ?_⟩
      rcases le_or_gt t' t₁ with h't' | h't'
      · exact ht₁ t' ⟨ht'.1, h't'⟩
      · exact H ⟨h't', ht'.2.trans_lt <| ht.trans_le <| min_le_left ..⟩
    have : t ≤ t₁ := le_csSup bdd_A this
    linarith
  · simp_all
```

And then replace the proof here by:
```lean
lemma setOf_riemmanianEDist_lt_subset_nhds [RegularSpace M] {x : M} {s : Set M} (hs : s ∈ 𝓝 x) :
    ∃ c > (0 : ℝ≥0), {y | riemannianEDist I x y < c} ⊆ s := by
  -- first introduce a neighborhood where the derivative of the extended chart is bounded by `C`
  rcases eventually_enorm_mfderiv_extChartAt_lt I x with ⟨C, C_pos, hC⟩
  -- let `u` be a closed neighborhood, inside `s`, with the derivative control
  obtain ⟨u, u_mem, u_closed, us, hu, uc⟩ : ∃ u ∈ 𝓝 x, IsClosed u ∧ u ⊆ s
      ∧ u ⊆ {y | ‖mfderiv I 𝓘(ℝ, E) (extChartAt I x) y‖ₑ < C} ∧ u ⊆ (extChartAt I x).source := by
    have := Filter.inter_mem (Filter.inter_mem hs hC) (extChartAt_source_mem_nhds (I := I) x)
    rcases exists_mem_nhds_isClosed_subset this with ⟨u, u_mem, u_closed, hu⟩
    simp only [subset_inter_iff] at hu
    exact ⟨u, u_mem, u_closed, hu.1.1, hu.1.2, hu.2⟩
  have uc' : u ⊆ (chartAt H x).source := by simpa [extChartAt_source I x] using uc
  -- let `v` be a smaller open neighborhood, inside `u`.
  obtain ⟨v, ⟨v_mem, v_open⟩, hv⟩ : ∃ v, (v ∈ 𝓝 x ∧ IsOpen v) ∧ v ⊆ u :=
    (nhds_basis_opens' x).mem_iff.1 u_mem
  -- let `r > 0` be small enough that, in the extended chart, the ball of radius `r` is contained
  -- in the image of `v`.
  obtain ⟨r, r_pos, hr⟩ : ∃ r > 0, ball (extChartAt I x x) r ⊆ (extChartAt I x).symm ⁻¹' v :=
    Metric.mem_nhds_iff.1 (extChartAt_preimage_mem_nhds v_mem)
  lift r to ℝ≥0 using r_pos.le
  simp only [gt_iff_lt, NNReal.coe_pos] at r_pos
  -- the desired constant will be `c := r / C`
  refine ⟨r / C, by positivity, ?_⟩
  intro y hy
  -- consider a path `γ` of length `< r / C` from `x` to a point `y`. We will show that `y` belongs
  -- to `u`.
  rcases exists_lt_locally_constant_of_riemannianEDist_lt hy zero_lt_one
    with ⟨γ, hγx, hγy, γ_smooth, hγ, -⟩
  let P (t : ℝ) := γ t ∈ u
  have P0 : P 0 := by simpa  [hγx, P] using mem_of_mem_nhds u_mem
  have Pclosed : IsClosed {s | P s} := u_closed.preimage γ_smooth.continuous
  suffices P 1 by
    apply us
    simpa [P, hγy, us]
  apply Pclosed.Icc_induction 0 1 P0 
  rintro t₁ ⟨ht₁0, ht₁1⟩ t₁_mem
  suffices γ t₁ ∈ v from
    γ_smooth.continuous.continuousWithinAt <| mem_of_superset (v_open.mem_nhds this) hv
  have Ht₁ : ∀ t' ∈ Icc 0 t₁, P t' := by
    rcases ht₁0.eq_or_lt with rfl|h't' 
    · simp [P0]
    · rw [← closure_Ico h't'.ne]
      exact (IsClosed.closure_subset_iff Pclosed).mpr t₁_mem
  let γ' := (extChartAt I x) ∘ γ
  have hC : ContMDiffOn 𝓘(ℝ) 𝓘(ℝ, E) 1 γ' (Icc 0 t₁) :=
    ContMDiffOn.comp (I' := I) (t := (chartAt H x).source) contMDiffOn_extChartAt
      γ_smooth.contMDiffOn (fun t' ht' ↦ uc' <| Ht₁ t' ht')
  have : ‖γ' t₁ - γ' 0‖ₑ < r := by
    rcases ht₁0.eq_or_lt with rfl|h't' ; simp [r_pos]
    calc
      ‖γ' t₁ - γ' 0‖ₑ
    _ ≤ ∫⁻ t' in Icc 0 t₁, ‖derivWithin γ' (Icc 0 t₁) t'‖ₑ := by
      apply enorm_sub_le_lintegral_derivWithin_Icc_of_contDiffOn_Icc _ ht₁0
      rwa [← contMDiffOn_iff_contDiffOn]
    _ = ∫⁻ t' in Icc 0 t₁, ‖mfderivWithin 𝓘(ℝ) 𝓘(ℝ, E) γ' (Icc 0 t₁) t' 1‖ₑ := by
      simp_rw [← fderivWithin_derivWithin, mfderivWithin_eq_fderivWithin]
      rfl
    _ ≤ ∫⁻ t' in Icc 0 t₁, C * ‖mfderivWithin 𝓘(ℝ) I γ (Icc 0 t₁) t' 1‖ₑ := by
      apply setLIntegral_mono' measurableSet_Icc (fun t' ht' ↦ ?_)
      have : mfderivWithin 𝓘(ℝ) 𝓘(ℝ, E) γ' (Icc 0 t₁) t' =
          (mfderiv I 𝓘(ℝ, E) (extChartAt I x) (γ t')) ∘L
          (mfderivWithin 𝓘(ℝ) I γ (Icc 0 t₁) t') := by
        apply mfderiv_comp_mfderivWithin
        · refine mdifferentiableAt_extChartAt (uc' ?_)
          apply Ht₁ _ ht'
        · exact (γ_smooth.mdifferentiable le_rfl).mdifferentiableOn _ ht'
        · rw [uniqueMDiffWithinAt_iff_uniqueDiffWithinAt]
          exact uniqueDiffOn_Icc h't' _ ht'
      have : mfderivWithin 𝓘(ℝ) 𝓘(ℝ, E) γ' (Icc 0 t₁) t' 1 =
          (mfderiv I 𝓘(ℝ, E) (extChartAt I x) (γ t'))
          (mfderivWithin 𝓘(ℝ) I γ (Icc 0 t₁) t' 1) := by rw [this]; rfl
      rw [this]
      apply (ContinuousLinearMap.le_opNorm_enorm _ _).trans
      gcongr
      refine (hu ?_).le
      apply Ht₁ _ ht'
    _ = C * pathELength I γ 0 t₁ := by
      rw [lintegral_const_mul' _ _ ENNReal.coe_ne_top,
          pathELength_eq_lintegral_mfderivWithin_Icc]
    _ ≤ C * pathELength I γ 0 1 := by
      gcongr
      exact pathELength_mono le_rfl ht₁1.le
    _ < C * (r / C) := by
      gcongr
      · exact ENNReal.coe_ne_top
      · exact hγ.trans_eq (ENNReal.coe_div C_pos.ne')
    _ = r := (ENNReal.eq_div_iff (by simpa using C_pos.ne') ENNReal.coe_ne_top).mp rfl
  have : γ' t₁ ∈ (extChartAt I x).symm ⁻¹' v := by
    apply hr
    rw [← Metric.emetric_ball_nnreal, EMetric.mem_ball, edist_eq_enorm_sub]
    convert this
    simp [γ', hγx]
  convert mem_preimage.1 this
  simp only [Function.comp_apply, γ', (extChartAt I x).left_inv <| uc <| Ht₁ t₁ 
    (right_mem_Icc.mpr ht₁0)]
```
where you could keep your long comment at the beginning but saying the interval story is proven separately as `IsClosed.Induction_Icc`.

Comment (sgouezel) [reply Mathlib/Geometry/Manifold/Riemannian/Basic.lean:406]: That's a very good idea. We already have induction principles over real intervals, but they are too weak for the task at hand. I've put your version (adapted to look a little bit more like the neighborhing statements) next to them, and used it for the main proof essentially using your proof above. Thanks!

**Review by PatrickMassot — COMMENTED** [review]
bors merge
